US07351778B2
Ethyl 3-hydroxycaproate was prepared following the procedure as described in step 1) of Preparation Example 2, except for that ethyl butyrylacetate was used to replace for ethyl acetoacetate. Yield 48%.

reactant | ethyl butyrylacetate | C(CCC)(=O)CC(=O)OCC | C8H14O3
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
product | Ethyl 3-hydroxycaproate | Yield 48% | OC(CC(=O)OCC)CCC | C8H16O3
